US08034945B2
(c). 2-Methoxy-benzoic acid 2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-nitro-phenyl ester
A mixture of 4-(3-bromo-4-hydroxy-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile (200 mg), N,N-diisopropylethylamine (390 μl) and 2-methoxy-benzoyl chloride (53 μl) in dichloromethane (4 ml) was stirred for 4 h. The mixture was diluted with dichloromethane and washed with water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 4-(3-bromo-4-hydroxy-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | 200 mg | BrC=1C=C(C=C(C1O)[N+](=O)[O-])C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C20H20BrN3O4
reactant | N,N-diisopropylethylamine | 390 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxy-benzoyl chloride | 53 μl | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-Methoxy-benzoic acid 2-bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-nitro-phenyl ester | BrC1=C(C(=CC(=C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)[N+](=O)[O-])OC(C1=C(C=CC=C1)OC)=O | C28H26BrN3O6
